* Gate Drive Comparison Testbench
* Lesson 03: Gate Charge & Miller Plateau

* Circuit Description
* Weak drive (MCU pin simulation)
V_weak pulse_in 0 PULSE(0 3.3 0 10n 10n 20u 40u)
R_weak pulse_in gate_weak 1k
C_gate_weak gate_weak 0 2.7n

* Strong drive (gate driver simulation)
V_strong pulse_in2 0 PULSE(0 15 0 10n 10n 20u 40u)
R_strong pulse_in2 gate_strong 5
C_gate_strong gate_strong 0 2.7n

* Analysis
.tran 1n 40u

* Control Block
.control
run
* Measure 10%-90% rise times
* Weak (3.3V): 10%=0.33V, 90%=2.97V
meas tran Trise_weak TRIG v(gate_weak) VAL=0.33 RISE=1 TARG v(gate_weak) VAL=2.97 RISE=1

* Strong (15V): 10%=1.5V, 90%=13.5V
meas tran Trise_strong TRIG v(gate_strong) VAL=1.5 RISE=1 TARG v(gate_strong) VAL=13.5 RISE=1

print Trise_weak Trise_strong
.endc
.end
